US07713979B2
3-(2,6-Dichloro-3-hydroxy-4-iodobenzyl)-1-cyclohexylpyrrolidin-2-one
Slowly add a solution of 1-cyclohexyl-3-(2,6-dichloro-3-hydroxy-benzyl)-pyrrolidin-2-one (1.0 g, 2.9 mmol) in a minimal amount of ammonium hydroxide (with N,N-dimethylformamide added to aid in dissolution) to a stirred solution of iodine (74 mg, 2.9 mmol) in aqueous potassium iodide at 0° C. Stir over night warming to room temperature. Acidify with conc. HCl to pH less than 2, collect the precipitate, wash with water and ether, and dry under vacuum to yield the title compound 1.2 g (88%) Mass Spectrum (apci) 468 (M+H).

reactant | 1-cyclohexyl-3-(2,6-dichloro-3-hydroxy-benzyl)-pyrrolidin-2-one | 2.9 mmol, 1.0 g | C1(CCCCC1)N1C(C(CC1)CC1=C(C(=CC=C1Cl)O)Cl)=O | C17H21Cl2NO2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | iodine | 2.9 mmol, 74 mg | II | I2
reactant | HCl | Cl | ClH
solvent | potassium iodide | [I-].[K+]
product | 3-(2,6-Dichloro-3-hydroxy-4-iodobenzyl)-1-cyclohexylpyrrolidin-2-one | 1.2 g, 88% | ClC1=C(CC2C(N(CC2)C2CCCCC2)=O)C(=CC(=C1O)I)Cl | C17H20Cl2INO2
